US08008298B2
A solution of 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine (400 mg, 0.7 mmol) in anhydrous tetrahydrofuran (5 ml) was cooled to −78° C. and treated with nBuLi (2.23M in hexanes, 0.42 ml, 0.94 mmol) dropwise. The reaction mixture was stirred for 30 seconds and then treated with a solution of 4-methyl-tetrahydro-thiopyran-4-carbaldehyde (0.305 mg, 2.1 mmol) in anhydrous tetrahydrofuran (2 ml), dropwise. The reaction mixture was allowed to stir at −78° C. for 30 minutes. The reaction mixture was partitioned between EtOAc/saturated aqueous NH4Cl. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a yellowish oil. The oil was purified by silica gel chromatography using 3-100% EtOAc in hexanes as eluant to provide 97 mg (32%) of (4-methyl-tetrahydro-thiopyran-4-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanol as a pale yellow solid. M+H=430.

reactant | 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.7 mmol, 400 mg | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | nBuLi | 0.94 mmol, 2.23M, 0.42 ml | [Li]CCCC
reactant | 4-methyl-tetrahydro-thiopyran-4-carbaldehyde | 2.1 mmol, 0.305 mg | CC1(CCSCC1)C=O | C7H12OS
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (4-methyl-tetrahydro-thiopyran-4-yl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanol | 97 mg, 32% | CC1(CCSCC1)C(O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C22H27N3O4S
